US04251546
2-(5-chloro-2-hydroxy-3-nitrophenyl)-2-(5-fluoro-2-hydroxy-3-nitrophenyl)propane (m.p. 160° C.) was prepared from 2-(5-chloro-2-hydroxyphenyl)-2-(5-fluoro-2-hydroxyphenyl)propane following the method described in Example 3 for the preparation of 2,2'-isopropylidene bis(4-fluoro-6-nitrophenol).

reactant | 2-(5-chloro-2-hydroxyphenyl)-2-(5-fluoro-2-hydroxyphenyl)propane | ClC=1C=CC(=C(C1)C(C)(C)C1=C(C=CC(=C1)F)O)O | C15H14ClFO2
reactant | 2,2'-isopropylidene bis(4-fluoro-6-nitrophenol) | C(C)(C)(C1=C(C(=CC(=C1)F)[N+](=O)[O-])O)C1=C(C(=CC(=C1)F)[N+](=O)[O-])O | C15H12F2N2O6
product | 2-(5-chloro-2-hydroxy-3-nitrophenyl)-2-(5-fluoro-2-hydroxy-3-nitrophenyl)propane | ClC=1C=C(C(=C(C1)C(C)(C)C1=C(C(=CC(=C1)F)[N+](=O)[O-])O)O)[N+](=O)[O-] | C15H12ClFN2O6
